Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Rectal pain, constipation, BRBPR, and urinary retention
 
Major Surgical or Invasive Procedure:
None during this admission. Recent hemorrhoidectomy ___
 
History of Present Illness:
___ w/ PMH of hypothyroidism s/p hemorrhoidectomy on ___ 
presenting with constipation, rectal pain, and urinary 
retention. Patient refers that pain started on POD #2 and has 
continued has not subsided. The patient refers that it began 
with some suprapubic discomfort that progress throught the 
night. He refers not being able to urinate, for which he followe 
the post operative instructions nad presented to the ER for 
evaluation. He reders that he has been unable to pass any stool 
since the surgery, but that the pain has been stable. He has 
taken milk of magnesia along with Metamucil and Miralax with 
still no results. Has been noting rectal bleeding consistently. 
No fevers, but
sweats and chills. No vomiting. No difficulty breathing.
 
Past Medical History:
Hypothyroidism, hemorrhoids

Past Surgical History: 
Hemorrhoidectomy 
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals:98.6°, HR 87, 18, 131/97
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: Rectum with scant blood surrounding, swollen mucosa, some
stool. No active bleeding visualized.
Ext: No ___ edema, ___ warm and well perfused

DISCHARGE PHYSICAL EXAM
Vitals:Per Flowsheets
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No respiratory distress
ABD: Soft, nondistended, nontender, no rebound or guarding
DRE: Deferred
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
LABS
___ 12:07PM BLOOD WBC-14.1* RBC-4.80 Hgb-13.3* Hct-41.7 
MCV-87 MCH-27.7 MCHC-31.9* RDW-14.7 RDWSD-47.3* Plt ___
___ 12:07PM BLOOD Neuts-82.1* Lymphs-9.3* Monos-7.3 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-11.61* AbsLymp-1.31 
AbsMono-1.03* AbsEos-0.12 AbsBaso-0.03
___ 12:07PM BLOOD ___ PTT-27.9 ___
___ 12:07PM BLOOD Glucose-123* UreaN-14 Creat-1.1 Na-139 
K-4.2 Cl-99 HCO3-29 AnGap-11

URINALYSIS
___ 12:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:25PM URINE Color-Straw Appear-Clear Sp ___

MICROBIOLOGY
***URINE CULTURE
 
Brief Hospital Course:
Mr ___ was admitted to the inpatient colorectal surgery 
service from the emergency room with constipation and urinary 
retention. In the emergency room he did have a fleet enema which 
allowed to have a bowel movement. A Foley catheter was placed 
and over 1000cc of urine was drained. We continued pain control 
and bowel regimen in the hospital. The following day he 
continued to have bowel movements and his pain was improved. We 
initiated ___ baths. In the afternoon he was improved. Nursing 
education was done as to taking care of the Foley at home. He 
was discharged home. He will return for follow-up and voiding 
trial with Dr. ___ on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
3. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
4. Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*14 Capsule Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
Hold for loose stools 
RX *polyethylene glycol 3350 17 gram/dose 17 gram by mouth once 
a day Disp #*238 Gram Gram Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
Hold for loose stools 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*7 
Capsule Refills:*0 
5.  Acetaminophen 1000 mg PO Q8H  
6.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate Duration: 7 Days 

take with food  
7.  Levothyroxine Sodium 50 mcg PO DAILY  
8.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
please use prior prescription  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Constipation and urinary retention after hemorrhoidectomy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital secondary to constipation and 
urinary retention. You had a Foley catheter placed and your 
urine output has been appropriate. You were given an aggressive 
bowel regimen and had several bowel movements. You are now ready 
to be discharged home. You will be taking a new medication 
called Flomax in order to help with urine output. You have a 
follow up appointment to have your Foley catheter removed. You 
are also placed on a bowel regimen in order to have regular 
bowel movements.

If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.

You will go home with a foley catheter in place. Please follow 
all care for this taught to you by the nursing staff. There 
should always be a small amount of clear yellow urine in the 
foley tubing. If urine suddenly stops draining or you have lower 
abdominal pain please call us. Alay secure the Foley catheter to 
the leg. Call if you have bloody urine. Call for fever over 101. 
You may shower, let the water run away from the area where the 
tube is inserted into the penis. 

It is expected that you will have pain after surgery and this 
pain will gradually improved over the first week or so you are 
home. You will especially have pain when changing positions and 
with movement. You should continue to take 2 Extra Strength 
Tylenol (___) for pain every 8 hours around the clock and you 
may also take Advil (Ibuprofen) 600mg every hours for 7 days. 
Please do not take more than 3000mg of Tylenol in 24 hours or 
any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while or Tylenol. Please take 
Advil with food. If these medications are not controlling your 
pain to a point where you can ambulate and preform minor tasks, 
you should take a dose of the narcotic pain medication 
Oxycodone. Please take this only if needed for pain. Do not take 
with any other sedating medications or alcohol. Do not drive a 
car if taking narcotic pain medications.

Avoid Constipation.

Do ___ bath or bath tub twice daily and especially after bowel 
movements. 

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.
 
Followup Instructions:
___